US04226994
The Preparation of 4,5-Dihydrotetrazolo[1,5-a]quinazolin-5-one (IV)
2-Hydrazino-quinazolin-4-one (IIIb) (17.6 g; 0.1 mole), was suspended in 2 N-hydrochloric acid (78 ml; 0.156 mole) in a 600 ml beaker equipped with a thermometer and efficient stirrer. 15% w/v aqueous NaNO2 solution was added at such a rate that the temperature remained between 20° and 25° C., cooling with a water bath when necessary, until a small permanent excess of nitrous acid was present. The volume of the nitrite solution used was 63 ml (=9.45 g NaNO2 ; 0.137 mole). The reaction mixture was then stirred for 1 hour, filtered, and the solid washed acid free with water. After pulling as dry as possible on the filter, the product was dried completely in a vacuum desiccator over phosphorus pentoxide.

reactant | 2-Hydrazino-quinazolin-4-one | 0.1 mole, 17.6 g | N(N)C1=NC2=CC=CC=C2C(N1)=O | C8H8N4O
reactant | hydrochloric acid | 0.156 mole, 78 ml | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | nitrous acid | N(=O)O | HNO2
reactant | nitrite | N(=O)[O-]
reactant | NaNO2 | 9.45 g | N(=O)[O-].[Na+]
product | 4,5-Dihydrotetrazolo[1,5-a]quinazolin-5-one | N1=NN=C2N1C1=CC=CC=C1C(N2)=O | C8H5N5O
